US08350090B1
(R)-3-(3-Methoxybenzyl)-4-oxocyclopent-2-enyl acetate (0.1 g, 0.38 mmol) was dissolved in THF (1 ml), 3N HCl (5 ml) was added to the solution, and the mixture was stirred at room temperature overnight. The reaction was quenched with saturated NaHCO3 to pH=6.9 and extracted with EtOAc and the organic layer was washed with brine, dried over MgSO4, and evaporated. The resulting residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give the (R)-4-hydroxy-2-(3-methoxybenzyl)cyclopent-2-enone as yellow oil: 71 mg (yield: 85%)

reactant | (R)-3-(3-Methoxybenzyl)-4-oxocyclopent-2-enyl acetate | 0.38 mmol, 0.1 g | C(C)(=O)O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OC | C15H16O4
reactant | HCl | 3N, 5 ml | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (R)-4-hydroxy-2-(3-methoxybenzyl)cyclopent-2-enone | yield: 85% | O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OC | C13H14O3
